US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 3-pyridinylboronic acid to give (6-methoxy-1-pyridin-3-yl-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine. LC-MS m/e 318(MH+).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC=C1 | C13H11ClN4O
reactant | 3-pyridinylboronic acid | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | (6-methoxy-1-pyridin-3-yl-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | COC=1C=C2C=C(N=C(C2=CC1)C=1C=NC=CC1)NC1=NNC=C1 | C18H15N5O
